US05510506
Into 629 g of a toluene solution containing 144.7 g (0.462 mol, E/Z=25/75) of α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetic acid produced in accordance with Example 5-(1) and 0.338 g (0.0046 mol) of dimethylformamide was introduced 68.5 g (0.692 mol) of phosgene over 10 hours while keeping at 60°-65° C., and the reaction was subsequently allowed to proceed at the same temperature for 2 hours and then at 80° C. for 2 hours. Then, excess phosgene was removed by distillation, followed by dilution with toluene, which afforded 612.6 g of a toluene solution of α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetyl chloride.

reactant | α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetic acid | 0.462 mol, 144.7 g | CON=C(C(=O)O)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C18H19NO4
reactant | dimethylformamide | 0.0046 mol, 0.338 g | CN(C=O)C | C3H7NO
reactant | phosgene | 0.692 mol, 68.5 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 629 g | C1(=CC=CC=C1)C | C7H8
product | α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetyl chloride | CON=C(C(=O)Cl)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C18H18ClNO3
